US07410966B2
N-(2-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]ethyl}-N-methylamine
The title compound was prepared from 4-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenol and tert-butyl 2-bromoethyl(methyl)carbamate using the method described in Example 41, followed by deprotection using trifluoroacetic acid.

reactant | 4-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenol | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)O | C12H8BrN3O
reactant | tert-butyl 2-bromoethyl(methyl)carbamate | BrCCN(C(OC(C)(C)C)=O)C | C8H16BrNO2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | N-(2-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]ethyl}-N-methylamine | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(OCCNC)C=C2 | C15H15BrN4O
